US04151302
Silver oxide, freshly prepared from 3.2 g. of AgNO3 and 0.8 g. of NaOH in 25 ml. of water, is added to a mixture of 2.78 g. of 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol and 2 g. of NaOH in 20 ml. of water. The mixture is heated under reflux for 2 hours and filtered. The filtrate is worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid, m.p. 121°-123°.

reactant | NaOH | [OH-].[Na+]
reactant | 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCO)(C)O | C16H16F2O2
catalyst | Silver oxide | [Ag]=O
catalyst | AgNO3 | [N+](=O)([O-])[O-].[Ag+]
solvent | water | O | H2O
product | 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)(C)O | C16H14F2O3
